US04976679
The same autoclave as in Example 10 was charged with 1 g (10.7 m moles) of aniline, 8 g (173.6 m moles) of ethanol, 8 g (66.6 m moles) of sulfolane and 0.48 g (2.52 m moles) of copper iodide. Carbon monoxide and air were put in the autoclave under pressure to adjust their partial pressures to 75 kg/cm2G and 35 kg/cm2G, respectively, and the reaction was carried out at a temperature of 158° C. for 2 hours. Consequently, the urethane (ethyl N-phenylcarbamate) yield based on aniline was 95.8% and the amount of diethyl carbonate obtained was 0.52 m moles.

reactant | aniline | 1 g | NC1=CC=CC=C1 | C6H7N
reactant | sulfolane | 8 g | S1(=O)(=O)CCCC1 | C4H8O2S
reactant | Carbon monoxide | [C]=O | CO
reactant | ethanol | 8 g | C(C)O | C2H6O
catalyst | copper iodide | 0.48 g | [Cu](I)I
product | urethane (ethyl N-phenylcarbamate) | C(C)N(C(O)=O)C1=CC=CC=C1.NC(=O)OCC | InChI=1S/C9H11NO2.C3H7NO2/c1-2-10(9(11)12)8-6-4-3-5-7-8;1-2-6-3(4)5/h3-7H,2H2,1H3,(H,11,12);2H2,1H3,(H2,4,5)
